US06087380
1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazole-5-yl-sulphonic acid-N-phenyl-N-(2-hydroxycarbonylethyl)-amide
Prepared analogously to Example 26 from 1-methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-sulphonic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride and sodium hydroxide solution. Yield: 24% of theory, Rf value: 0.55 (Reverse-Phase RP-18 silica gel; methanol/5% saline solution=3:2) C25H26N6O4S (506.6) ##EQU112##

reactant | 1-methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-sulphonic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Cl.C1(=CC=CC=C1)N(S(=O)(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)OCC
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazole-5-yl-sulphonic acid-N-phenyl-N-(2-hydroxycarbonylethyl)-amide | Yield: 24% | C1(=CC=CC=C1)N(S(=O)(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)O | C25H26N6O4S
